US06573270B1
N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)methanesulfonamide
An aqueous solution of sodium hydroxyde (1M, 0.91 ml) was added at room temperature to a solution of N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-N-(methylsulfonyl)methane sulfonamide (Preparation 49) (50 mg) in a mixture of methanol (1 ml) and dichloromethane (0.3 ml). After 1 h the reaction was diluted with an aqueous saturated solution of ammonium chloride (4 ml) and the mixture was extracted with dichloromethane (3*5 ml). The combined organic fractions were dried over sodium sulfate and concentrated under reduced pressure. The pale yellow oil was purified by preparative TLC (silica) eluted with dichloromethane:methanol (95:5) to yield the title compound as a colourless oil (33 mg)

reactant | sodium | [Na] | Na
reactant | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-N-(methylsulfonyl)methane sulfonamide | 50 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N(S(=O)(=O)C)S(=O)(=O)C)C)OCCOC2=NC=C(C=N2)Cl | C19H20ClN5O8S2
solvent | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 0.3 ml | ClCCl | CH2Cl2
solvent | ammonium chloride | 4 ml | [Cl-].[NH4+]
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)methanesulfonamide | 33 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C)C)OCCOC2=NC=C(C=N2)Cl | C18H18ClN5O6S
